US06180844B2
4-Amino-3-metlhylphenol (304 mg, 2.47 mmols) was put into a 30-ml conical flask, purged with argon, and dissolved in 10 ml of dry dimethylformamide (DMF). Next, a DMF solution (2 ml) of 2,5-dimethoxybenzoyl chloride (708 mg, 3.53 mmols) was added, and stirred at room temperature for 12 hours. The resulting reaction mixture was poured into 75 ml of cold water, suction-filtered, extracted with methylene chloride, and washed with water. The methylene chloride layer was dried with sodium sulfate, and the methylene chloride was removed by evaporation under reduced pressure. Next, the residue was purified by column chromatography (silica gel eluted with methylene chloride) to obtain 302 mg of the intended product, 4-hydroxy-2-methylphenyl-2,5-dimethoxybenzamide (yield: 43%).

reactant | DMF | 2 ml | CN(C=O)C | C3H7NO
reactant | 2,5-dimethoxybenzoyl chloride | 3.53 mmols, 708 mg | COC1=C(C(=O)Cl)C=C(C=C1)OC | C9H9ClO3
solvent | water | 75 ml | O | H2O
product | 4-hydroxy-2-methylphenyl-2,5-dimethoxybenzamide | yield: 43% | OC1=CC(=C(C=C1)C=1C(=C(C(=O)N)C=C(C1)OC)OC)C | C16H17NO4
